US08034826B2
A solution of {8-[(4-fluoro-benzenesulfonyl)-methyl-amino]-6,7,8,9-tetrahydro-pyrido[3,2-b]indol-5-yl}-acetic acid tert-butyl ester (43 mg, 0.9 mmol) was dissolved in THF (1 mL), MeOH (1 mL) and 1N NaOH (0.2 mL). After 24 hours, the reaction mixture was neutralized with 1N HCl and concentrated to afford 40 mg of {8-[(4-fluoro-benzenesulfonyl)-methyl-amino]-6,7,8,9-tetrahydro-pyrido[3,2-b]indol-5-yl}-acetic acid. Mass spectrometric data [M+H]+=418.

reactant | {8-[(4-fluoro-benzenesulfonyl)-methyl-amino]-6,7,8,9-tetrahydro-pyrido[3,2-b]indol-5-yl}-acetic acid tert-butyl ester | 0.9 mmol, 43 mg | C(C)(C)(C)OC(CN1C2=C(C=3CC(CCC13)N(C)S(=O)(=O)C1=CC=C(C=C1)F)N=CC=C2)=O | C24H28FN3O4S
reactant | MeOH | 1 mL | CO | CH4O
reactant | NaOH | 1N, 0.2 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | {8-[(4-fluoro-benzenesulfonyl)-methyl-amino]-6,7,8,9-tetrahydro-pyrido[3,2-b]indol-5-yl}-acetic acid | 40 mg | FC1=CC=C(C=C1)S(=O)(=O)N(C1CC=2C3=C(N(C2CC1)CC(=O)O)C=CC=N3)C | C20H20FN3O4S
